US04271164
Following the procedure for Example 1, 2-bromo-6-chlorophenylacetonitrile is condensed with 4-amino-2-methylpyrimidin-5-carboxaldehyde to give 6-(2-bromo-6-chlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-amine, mp 272°-274° C., after recrystallization from acetonitrile.

reactant | 2-bromo-6-chlorophenylacetonitrile | BrC1=C(C(=CC=C1)Cl)CC#N | C8H5BrClN
reactant | 4-amino-2-methylpyrimidin-5-carboxaldehyde | NC1=NC(=NC=C1C=O)C | C6H7N3O
product | 6-(2-bromo-6-chlorophenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-amine | BrC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10BrClN4
